US05243042
5-[[[[(phenylmethoxy)carbonyl]amino]carbonyl]amino]-1-(β-D-ribofuranosyl)-1H-imidazole-4-carboxylic acid diphenylmethyl ester (1.76 g, 2.9 mmol) was dissolved in the mixture of DMF (50 mL), THF (20 mL) and ethanol (30 mL) and mixed with 10% palladium on charcoal. The mixture was hydrogenated at 50 psig pressure for 2 h. The catalyst was removed by filtration through Celite, and washed extensively with DMF and ethanol. Combined washing and filtrate was concentrated under reduced pressure to dryness. Residue was dissolved in 30% aqueous ethanol and filtered through a C18-Sep-Pak to remove the last traces of catalyst. This eluate was concentrated to dryness and partitioned between water (100 mL) and ether (2×100 mL). The aqueous layer was concentrated to dryness, redissolved in water and evaporated again and pumped under high vacuum to give 5-[[(amino)carbonyl]amino]-1-(β-D-ribofuranosyl)-1H-imidazole-4-carboxylic acid as a colorless glass: yield 0.64 g (73%); IR (KBr) 3340, 1692 cm -1 ; NMR (Me2SO-d6) δ3.72-3.53 (m, 2), 3.84 (d, 1, J=4.3 Hz), 4.05 (s, 1), 4.14 (s, 1), 5.05 (s, 1), 5.11 (s, 1), 5.34 (s, 1), 5.50 (d, 1, J=4.3 Hz), 6.28 (s, 2), 7.92 (s, 1), 8.07 (s, 1); UV max (H2O) 215 nm (ε5800).

reactant | 5-[[[[(phenylmethoxy)carbonyl]amino]carbonyl]amino]-1-(β-D-ribofuranosyl)-1H-imidazole-4-carboxylic acid diphenylmethyl ester | 2.9 mmol, 1.76 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N=CN(C1NC(=O)NC(=O)OCC1=CC=CC=C1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C31H30N4O9
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-[[(amino)carbonyl]amino]-1-(β-D-ribofuranosyl)-1H-imidazole-4-carboxylic acid | NC(=O)NC1=C(N=CN1[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C(=O)O | C10H14N4O7
